US06498163B1
A mixture of 8-ethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (155 mg, 0.65 mmol) and 500 μL of 4-dimethylaminoaniline was heated at 175° C. for 10 minutes, then cooled to room temperature and partitioned between saturated sodium bicarbonate and ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resultant solid was washed with hexane and ethyl acetate then purified by flash chromatography eluting with ethyl acetate. The fractions containing product were concentrated and a 2:1 mixture of hexane and ethyl acetate was added to the residue. The resultant precipitate was collected by filtration to give 110 mg (50%) of 2-(4-dimethylamino-phenylamino)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one, mp 189-191° C.

reactant | 8-ethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.65 mmol, 155 mg | C(C)N1C(C=CC2=C1N=C(N=C2)S(=O)C)=O | C10H11N3O2S
reactant | 4-dimethylaminoaniline | 500 μL | CN(C1=CC=C(N)C=C1)C | C8H12N2
product | 2-(4-dimethylamino-phenylamino)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one | 110 mg, 50% | CN(C1=CC=C(C=C1)NC=1N=CC2=C(N1)N(C(C=C2)=O)CC)C | C17H19N5O
